*$
* PART NUMBER:NJM4556A
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (C) Bee Technologies Inc. 2007
.Subckt NJM4556A OUT1 IN1+ IN1- V- IN2+ IN2- OUT2 V+
X_U1     IN1+ IN1- V+ V- OUT1 NJM4556A_S
X_U2     IN2+ IN2- V+ V- OUT2 NJM4556A_S
.ends  NJM4556A
.subckt NJM4556A_S 1 2 3 4 5
  c1   11 12 8.6603E-12
  c2    6  7 30.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 2.3021E6 -1E3 1E3 2E6 -2E6
  ga    6  0 11 12 1.7376E-3
  gcm   0  6 10 99 53.425E-9
  iee   3 10 dc 90.461E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 575.52
  rc2   4 12 575.52
  re1  13 10 3.0491
  re2  14 10 3.0491
  ree  10 99 2.2109E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.2907E3
  vb    9  0 dc 0
  vc    3 53 dc 4.7718
  ve   54  4 dc 4.7718
  vlim  7  8 dc 0
  vlp  91  0 dc 80
  vln   0 92 dc 80
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=848.45)
.model qx2 PNP(Is=814.9854E-18 Bf=954.17)
.ends
*$
